US05602170
Synthesis of 5-(2-ethoxycarbonyl-2-cyanoethenyl)-2,2'-bithiophene
3.9 g of 5-formyl-2,2'-bithiophene, 2.4 ml of cyano-ethyl-acetate, 15 ml of pyridine and 2.4 ml of piperidine were heated at 80°-85° C. for 2 hours. After cooling, the mixture was acidified by diluted HCl and then filtered. The orange crude product was recrystallized from ethanol to give a crystal product (5.02 g). The melting point of the product was 131° C. The yield was 86%.

reactant | 5-formyl-2,2'-bithiophene | 3.9 g | C(=O)C1=CC=C(S1)C=1SC=CC1 | C9H6OS2
reactant | cyano-ethyl-acetate | 2.4 ml | C(#N)C(C(=O)[O-])CC
reactant | piperidine | 2.4 ml | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2-ethoxycarbonyl-2-cyanoethenyl)-2,2'-bithiophene | 5.02 g, yield was 86% | C(C)OC(=O)C(=CC1=CC=C(S1)C=1SC=CC1)C#N | C14H11NO2S2
